US06632916B2
2,6-Dicarboxynaphthalene having carboxyl groups bonded to a naphthalene nucleus, designated compound A, is chosen as a starting compound. Two moles of thionyl chloride is added to one mole of compound A, and the mixture is heated to about 75 to 90° C., preferably about 80° C., with stirring in a nitrogen atmosphere. Then the stirring force is diminished, and the reaction mixture is refluxed for about 6 to 18 hours, desirably about 10 to 12 hours. The bath temperature is set at about 90 to 100° C., at which unreacted thionyl chloride is removed by evaporation over about 2 hours to obtain 2,6-dicarboxychloronaphthalene, designated compound B.

reactant | 2,6-Dicarboxynaphthalene | C(=O)(O)C1=CC2=CC=C(C=C2C=C1)C(=O)O | C12H8O4
reactant | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | thionyl chloride | Two moles | S(=O)(Cl)Cl | Cl2OS
product | 2,6-dicarboxychloronaphthalene | C(=O)(O)C1=C(C2=CC=C(C=C2C=C1)C(=O)O)Cl | C12H7ClO4
